US09193692B2
A. 5-Bromo-4-methylpicolinonitrile
2,5-Dibromo-4-methylpyridine (5.0 g, 19.9 mmol), copper cyanide (1.43 g, 15.9 mmol), sodium cyanide (0.801 g, 16.3 mmol) and dimethylformamide (30 mL) were combined in a sealed reaction vessel and heated at 158° C. for 3 h. The reaction mixture was purified by silica gel column chromatography (0-80% ethyl acetate in hexanes). The resulting material was subjected to a second silica gel column (0-20% methanol in dichloromethane). Clean fractions were combined and concentrated to afford the title compound as a white solid (2.30 g, 11.6 mmol, 58% yield). MS (ESI) m/z 198.0 [M+1]+.

reactant | 2,5-Dibromo-4-methylpyridine | 19.9 mmol, 5.0 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | copper cyanide | 15.9 mmol, 1.43 g | [Cu](C#N)C#N
reactant | sodium cyanide | 16.3 mmol, 0.801 g | [C-]#N.[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-4-methylpicolinonitrile | 11.6 mmol, 2.30 g, 58% yield | BrC=1C(=CC(=NC1)C#N)C | C7H5BrN2
